US08134001B2
In a manner similar to the method described in example 1d, 5-chloro-4-methyl-2-(tetrahydro-pyran-4-yloxy)-benzaldehyde (2 g, 7.9 mmol) was reacted with 1,1,1,3,3,3-hexamethyldisilazane (1.6 mL, 7.9 mmol), n-butyllithium (2.5 M, 3.1 mL, 7.9 mmol), trimethylsilyl chloride (0.99 mL, 7.9 mmol), triethylamine (1.42 mL, 10 mmol) and acetyl chloride (0.73 mL, 10 mmol) to give crude 1-[5-chloro-4-methyl-2-(tetrahydro-pyran-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 5-chloro-4-methyl-2-(tetrahydro-pyran-4-yloxy)-benzaldehyde | 7.9 mmol, 2 g | ClC=1C(=CC(=C(C=O)C1)OC1CCOCC1)C | C13H15ClO3
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 7.9 mmol, 1.6 mL | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | n-butyllithium | 7.9 mmol, 2.5 M, 3.1 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 7.9 mmol, 0.99 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 10 mmol, 1.42 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 10 mmol, 0.73 mL | C(C)(=O)Cl | C2H3ClO
product | 1-[5-chloro-4-methyl-2-(tetrahydro-pyran-4-yloxy)-phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | ClC=1C(=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OC1CCOCC1)C | C18H26ClNO3Si
